US04701399
A mixture of 9.4 g of stilbene-4-aldehyde thus-obtained, 10.6 g of malonic acid, 30 ml of pyridine and 3 ml of piperidine was reacted on a steam bath at 100° C. for 4 hours. After the completion of the reaction, the mixture was poured into an exess amount of water and the precipitate thus-obtained was collected and recrystallized from acetic acid to obtain 11.0 g of p-styryl cinnamic acid.

reactant | stilbene-4-aldehyde | 9.4 g | C1(=CC=C(C=C1)C=O)C=CC1=CC=CC=C1 | C15H12O
reactant | malonic acid | 10.6 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
reactant | piperidine | 3 ml | N1CCCCC1 | C5H11N
solvent | water | O | H2O
product | p-styryl cinnamic acid | 11.0 g | C(=CC1=CC=CC=C1)C1=CC=C(C=CC(=O)O)C=C1 | C17H14O2
